US06638989B2
100 parts by weight of polymeric MDI (Sumidur 44V20 (NCO%; 31.5) manufactured by Sumitomo Bayer Urethane Co., Ltd.), 8 parts by weight of a polyether polyol with a hydroxy value of 56 mg KOH/g having propylene oxide and ethylene oxide added to glycerin, and 8 parts by weight of a polyester polyol with a hydroxy value of 56 mg KOH/g formed from phthalic anhydride and ethylene glycol were reacted under the condition of 80 deg. C. for 2 hours to prepare a polymeric MDI prepolymer (prepolymer A) having an isocyanate group content of 26% which was used as the isocyanate component.

reactant | Urethane | NC(=O)OCC | C3H7NO2
reactant | KOH | 56 mg | [OH-].[K+]
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | KOH | 56 mg | [OH-].[K+]
solvent | ethylene glycol | C(CO)O | C2H6O2
solvent | glycerin | OCC(O)CO | C3H8O3
product | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
